* Z:\home\harvey\Documents\UNI\5th_year\Acoustics\Project\Simulation\Initial\Draft1.asc
R1 N003 N002 0.8
L1 N002 N001 2.2m
C1 N007 N001 6.8µ
L2 N007 N009 0.47m
R2 N009 0 0.32
R3 N006 N007 0.18
L3 N004 N006 0.2m
C2 N004 0 22µ
L4 0 N008 0.22m
R4 N008 N010 0.18
C3 N007 N010 22µ
R5 N005 N004 0.32
R6 N005 N010 8
V1 N001 0 AC 1
R7 N003 0 8
.ac dec 100 10 30000
.backanno
.end
