* C:\users\harvey\My Documents\Documents\UNI\5th_year\Acoustics\AcousticsProject\Simulation\Initial\FreeSpace.asc
L1 N008 N007 {Le_w}
R1 N007 Z_woofer {Re_w}
I1 Z_woofer 0 AC 1
C1 N008 0 {C_mes_w}
R2 N008 0 {R_es_w}
L2 N008 0 {L_ces_w}
L3 N002 N001 {Le_t}
R3 N001 Z_tweeter {Re_t}
I2 Z_tweeter 0 AC 1
C2 N002 0 {C_mes_t}
R4 N002 0 {R_es_t}
L4 N002 0 {L_ces_t}
L5 N010 N009 {Le_w}
R5 N009 Z_wZobel {Re_w}
C3 N010 0 {C_mes_w}
R6 N010 0 {R_es_w}
L6 N010 0 {L_ces_w}
R7 Z_wZobel N011 {R_z}
C4 N011 0 {C_z}
I3 Z_wZobel 0 AC 1
L7 N004 N003 {Le_t}
R8 N003 Z_tNotch {Re_t}
C5 N004 0 {C_mes_t}
R9 N004 0 {R_es_t}
L8 N004 0 {L_ces_t}
R10 Z_tNotch N005 {R_n}
L9 N006 N005 {L_n}
C6 N006 0 {C_n}
I4 Z_tNotch 0 AC 1
.ac dec 100 20 20000
.param Re_w=5.13 Le_w=0.84m
.param C_mes_w=0.000265923 L_ces_w=0.0239995549 R_es_w=63.65
.param Re_t=6.9 Le_t=0.1m
.param C_mes_t=0.000081939 L_ces_t=0.0002803955 R_es_t=12.9305630027
* Tweeter
* Woofer
.param R_z=Re_w C_z=3.1918653032842E-05
.param R_n=Re_t L_n=0.0007121913 C_n=0.00003226
.backanno
.end
